US07786165B2
methyl 3-{4-[[(2′,6′-dimethylbiphenyl-3-yl)methyl](methyl)amino]phenyl}propanoate
To a solution of methyl 3-(4-{[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate (0.598 g, 1.60 mmol) and iodomethane (0.498 mL, 8.00 mmol) in acetone (10 mL) was added potassium carbonate (0.332 g, 2.40 mmol), and the mixture was heated under reflux under a nitrogen atmosphere for 6 hr. After cooling, the reaction mixture was concentrated under reduced pressure. Water was added to the obtained residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-25% ethyl acetate/hexane) to give the title compound (0.297 g, yield 48%) as a yellow oil.

reactant | methyl 3-(4-{[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate | 1.60 mmol, 0.598 g | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)CNC1=CC=C(C=C1)CCC(=O)OC | C25H27NO2
reactant | iodomethane | 8.00 mmol, 0.498 mL | IC | CH3I
reactant | potassium carbonate | 2.40 mmol, 0.332 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | methyl 3-{4-[[(2′,6′-dimethylbiphenyl-3-yl)methyl](methyl)amino]phenyl}propanoate | 0.297 g, yield 48% | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)CN(C1=CC=C(C=C1)CCC(=O)OC)C | C26H29NO2
